US07253286B2
1-[4-(6-Amino-7-methoxyquinolin-4-yloxy)phenyl]-3-(4-fluorophenyl)urea
After dissolving (4-{4-[3-(4-fluorophenyl)ureido]phenoxy}-7-methoxyquinolin-6-yl)carbamic acid benzyl ester (100 mg) in a mixture of tetrahydrofuran (10 ml)-methanol (10 ml), 10% palladium carbon (10 mg) was added and the mixture was stirred for 7 hours at room temperature under hydrogen gas at 1 atmosphere. The reaction solution was filtered through celite and the filtrate was concentrated to obtain the title compound (60 mg) as a solid.

reactant | (4-{4-[3-(4-fluorophenyl)ureido]phenoxy}-7-methoxyquinolin-6-yl)carbamic acid benzyl ester | 100 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)=O | C31H25FN4O5
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 10 mg | [C].[Pd]
product | 1-[4-(6-Amino-7-methoxyquinolin-4-yloxy)phenyl]-3-(4-fluorophenyl)urea | 60 mg | NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H19FN4O3
